US04198425
3-Hydroxy-3-methyl-7-(p-benzyloxyphenyl)-5-heptanolide
The product obtained by reducing 2.0 g of 3-hydroxy-3-methyl-4-bromo-7-(p-benzyloxyphenyl)-5-heptanolide with 5.59 g of tri-n-butyltin hydride in 50 ml of anhydrous tetrahydrofuran according to the method described in Example 2 (a), was recrystallized from a mixture of n-hexane and ethyl ether (5:1) to give 1.44 g of the desired compound melting at 82°-85° C.

reactant | 3-hydroxy-3-methyl-4-bromo-7-(p-benzyloxyphenyl)-5-heptanolide | 2.0 g | OC1(CC(=O)OC(C1Br)CCC1=CC=C(C=C1)OCC1=CC=CC=C1)C | C21H23BrO4
reactant | tri-n-butyltin hydride | 5.59 g | C(CCC)[SnH](CCCC)CCCC
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-Hydroxy-3-methyl-7-(p-benzyloxyphenyl)-5-heptanolide | 1.44 g | OC1(CC(=O)OC(C1)CCC1=CC=C(C=C1)OCC1=CC=CC=C1)C | C21H24O4
